### PR TITLE
[Merged by Bors] - feat: the unit of a bialgebra as a `BialgHom`

### PR DESCRIPTION
**Pull request by YaelDillies**
And tag one more lemma with simp.

From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Bialgebra/Hom.lean [hunk 1]
```diff
@@ -300,11 +302,23 @@ theorem mul_apply (φ ψ : A →ₐc[R] A) (x : A) : (φ * ψ) x = φ (ψ x) :=
...
+  __ := Algebra.ofId R A
+  map_smul' a b := by simp [map_mul, Algebra.smul_def, Algebra.ofId]
+  counit_comp := by ext; simp
+  map_comp_comul := by ext; simp [Algebra.TensorProduct.one_def]
+
+variable (R A) in
+/-- The unit of a bialgebra as a `BialgHom`. -/
+def unitBialgHom : R →ₐc[R] A where
+  __ := Algebra.ofId R A
+  __ := unitCoalgHom R A
```
Comment (ocfnash) [inline Mathlib/RingTheory/Bialgebra/Hom.lean:319]: I believe we don't need both definitions. How about just:
```lean
variable (R A) in
/-- The unit of a bialgebra as a `BialgHom`. -/
def unitBialgHom : R →ₐc[R] A where
  __ := Algebra.ofId R A
  map_smul' a b := by simp [map_mul, Algebra.smul_def, Algebra.ofId]
  counit_comp := by ext; simp
  map_comp_comul := by ext; simp [Algebra.TensorProduct.one_def]
```

**Review by ocfnash — APPROVED** [review]
Please apply the suggestion and then feel free to merge.

bors d+

**Comment by YaelDillies** [comment]
bors merge

**Comment by YaelDillies** [comment]
bors merge
